US08461328B2
A mixture of 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (0.6981 g, 2.067 mmol), 3-Amino-azepane-1-carboxylic acid tert-butyl ester (0.4752 g, 2.217 mmol), and diisopropylethylamine (0.50 mL, 2.9 mmol) in propan-2-ol (12 mL) was heated in a microwave reactor at 120° C. for 20 minutes. The solvent was evaporated in vacuo and then purified by column chromatography on silica gel (gradient: 0 to 30% ethyl acetate in heptanes) affording 0.8869 g (83%) of 3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-azepane-1-carboxylic acid tert-butyl ester. LCMS (Method E, ESI): RT=2.07 min, m+H=516.2.

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 2.067 mmol, 0.6981 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | 3-Amino-azepane-1-carboxylic acid tert-butyl ester | 2.217 mmol, 0.4752 g | C(C)(C)(C)OC(=O)N1CC(CCCC1)N | C11H22N2O2
reactant | diisopropylethylamine | 2.9 mmol, 0.50 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 12 mL | CC(C)O | C3H8O
product | 3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-azepane-1-carboxylic acid tert-butyl ester | 0.8869 g, 83% | C(C)(C)(C)OC(=O)N1CC(CCCC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C24H29N5O6S
